US04698352
In a mixed solvent of 5 ml of methanol and 5 ml of 1N aqueous sodium hydroxide solution was dissolved 0.5 g of methyl 6-(4-chlorophenyl)-1-(4-fluorophenyl)-4-oxo-1,4-dihydronicotinate, and they were reacted at room temperature for 30 minutes. After completion of the reaction, the reaction mixture was adjusted to a pH of 5.5 with acetic acid, and the precipitated crystals were collected by filtration, washed with 10 ml of water and dried to obtain 0.4 g of 6-(4-chlorophenyl)-1-(4-fluorophenyl)-4-oxo-1,4-dihydronicotinic acid having a melting point of 199°-204° C.

reactant | methyl 6-(4-chlorophenyl)-1-(4-fluorophenyl)-4-oxo-1,4-dihydronicotinate | 0.5 g | ClC1=CC=C(C=C1)C=1N(C=C(C(=O)OC)C(C1)=O)C1=CC=C(C=C1)F | C19H13ClFNO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 5 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
product | 6-(4-chlorophenyl)-1-(4-fluorophenyl)-4-oxo-1,4-dihydronicotinic acid | 0.4 g | ClC1=CC=C(C=C1)C=1N(C=C(C(=O)O)C(C1)=O)C1=CC=C(C=C1)F | C18H11ClFNO3
